US03931181
A suspension of 5.8 g. of 4'-[(2,4-diamino-5-pyrimidinyl)-methyl] -2',6'-diethoxy-2-(methylsulfonyl)acetophenone in 50 ml. of 20% aqueous tetrahydrofuran is reduced with 1 g. of amalgamated aluminum at 65° over a period of 4 hours. (The aluminum chips are immersed in a 2% hydrochloric acid solution for 2 minutes, rinsed with methanol, and thereafter used in the reduction.) The reaction mixture is filtered warm, the filtrate is concentrated and adjusted to a pH of 9 with 5% sodium hydroxide. The resulting solution is then shaken with five 50 ml. portions of ethyl acetate. The resulting crude product after column chromatography (200 g. of silica gel, elution solvent comprising chloroform/N-propanol/concentrated ammonium hydroxide, 80:20:1) yields 4'-[(2,4-diamino-5-pyrimidinyl)-methyl]-2',6'-diethoxy-acetophenone, having a m.p. of 229°-231° recrystallized from methanol.

reactant | 4'-[(2,4-diamino-5-pyrimidinyl)-methyl] -2',6'-diethoxy-2-(methylsulfonyl)acetophenone | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C(CS(=O)(=O)C)=O)OCC | C18H24N4O5S
reactant | aluminum | [Al] | Al
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4'-[(2,4-diamino-5-pyrimidinyl)-methyl]-2',6'-diethoxy-acetophenone | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C(C)=O)OCC | C17H22N4O3
